US09145415B2
To a solution of 1-(tert-butoxycarbonyl)-3-pyrrolidinone (220 mg) and 3-nitroaniline (164 mg) in methylene chloride (3 mL), sodium triacetoxyborohydride (375 mg) and acetic acid (67 μL) were added at room temperature, and the mixture was stirred at the same temperature for 10 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 50% hexane in ethyl acetate) to obtain tert-butyl 3-((3-nitrophenyl)amino)pyrrolidine-1-carboxylate (C23, 210 mg).

reactant | 1-(tert-butoxycarbonyl)-3-pyrrolidinone | 220 mg | C(C)(C)(C)OC(=O)N1CC(CC1)=O | C9H15NO3
reactant | 3-nitroaniline | 164 mg | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | sodium triacetoxyborohydride | 375 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 67 μL | C(C)(=O)O | C2H4O2
product | tert-butyl 3-((3-nitrophenyl)amino)pyrrolidine-1-carboxylate | 210 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC1CN(CC1)C(=O)OC(C)(C)C | C15H21N3O4
